US04438128
1-Phenoxy-3-[2-(pyrimido[4,5,6]indol-4-ylamino)-ethylamino]-propan-2-ol neutral fumarate hydrate
1.22 g. phenyl glycidyl ether and 3.7 g. 1-(2-aminoethylamino)-pyrimido[4,5-d]indole (prepared by reacting 1-chloropyrimido[4,5-b]indole with an excess of ethylenediamine) are stirred for 7 hours at 50° C., in 20 ml. dimethylformamide. The reaction mixture is then evaporated and the residue is purified chromatographically over a silica gel column using, as elution agent, methylene chloride-methanol-triethylamine (10:2:0.3 v/v/v). The residue obtained by evaporation of the pure fractions is mixed in ethyl acetate-ethanol with fumaric acid and the product obtained is recrystallized from ethanol. There is obtained 0.3 g. (15% of theory) of colorless crystals: m.p. 187°-188° C.

reactant | phenyl glycidyl ether | C(C1CO1)OC1=CC=CC=C1 | C9H10O2
reactant | 1-(2-aminoethylamino)-pyrimido[4,5-d]indole | NCCNN1C=NC=C2C13C=CNC3=CC=C2 | C12H15N5
reactant | 1-chloropyrimido[4,5-b]indole | ClN1C=NC=C2C1=NC1=CC=CC=C21 | C10H6ClN3
reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | fumaric acid | C(\C=C\C(=O)O)(=O)O | C4H4O4
solvent | ethyl acetate ethanol | C(C)(=O)OCC.C(C)O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Phenoxy-3-[2-(pyrimido[4,5,6]indol-4-ylamino)-ethylamino]-propan-2-ol | O(C1=CC=CC=C1)CC(CNCCNC1=C2C=CN=C2C2=CC1=NC=N2)O | C20H21N5O2
